US03956297
In the manner given in Example 1, 7-chloro-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepine-11-thione is treated with aminoacetaldehyde dimethyl acetal in n-butanol to give 7-chloro-[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]-acetaldehyde dimethyl acetal.

reactant | 7-chloro-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepine-11-thione | ClC1=CC2=C(NC(C3=C(N2)C=CC=C3)=S)C=C1 | C13H9ClN2S
reactant | aminoacetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
solvent | n-butanol | C(CCC)O | C4H10O
product | 7-chloro-[(5H-dibenzo[b,e][1,4]diazepin-11-yl)amino]-acetaldehyde dimethyl acetal | COC(CNC=1C2=C(NC3=C(N1)C=CC(=C3)Cl)C=CC=C2)OC | C17H18ClN3O2
